US08017611B2
TFA (20 ml) was added to the mixture. The resulting solution was stirred at 25° C. for 2 hours. The TFA was evaporated and the mixture was basified with a solution 7N of ammonia in methanol. The mixture was adsorbed on silica gel. The crude product was purified by flash chromatography on silica gel eluting with 1 to 2% methanol in dichloromethane. The solvent was evaporated to dryness to afford 2-(2-amino-5-bromo-3-pyridyl)-1,3-benzoxazol-4-ol (1.040 g) as a solid. NMR Spectrum: (DMSOd6) 6.81 (d, 1H), 7.18 (d, 1H), 7.25 (dd, 1H), 7.94 (bs, 2H), 8.28 (d, 1H), 8.30 (d, 1H), 10.47 (bs, 1H); Mass spectrum: M+H+ 306-308 Iodomethane (0.5 ml) was added to a stirred suspension 2-(2-amino-5-bromo-3-pyridyl)-1,3-benzoxazol-4-ol (820 mg) and potassium carbonate (1111 mg) in DMF (5 ml). The resulting suspension was stirred at 25° C. for 3 hours. The DMF was evaporated under reduce pressure. The mixture was adsorbed on silica gel. The crude product was purified by flash chromatography on silica gel eluting with 20 to 50% ethyl acetate in dichloromethane. The solvent was evaporated to dryness to afford 5-bromo-3-(4-methoxy-1,3-benzoxazol-2-yl)pyridin-2-amine (480 mg) as a solid. NMR Spectrum: (CDCl3) 4.08 (s, 3H), 6.84 (d, 1H), 6.93 (bs, 2H), 7.20 (d, 1H), 7.31 (dd, 1H), 8.23 (d, 1H), 8.38 (d, 1H); Mass spectrum: M+H+ 319-321

reactant | 2-(2-amino-5-bromo-3-pyridyl)-1,3-benzoxazol-4-ol | 820 mg | NC1=NC=C(C=C1C=1OC=2C(N1)=C(C=CC2)O)Br | C12H8BrN3O2
reactant | potassium carbonate | 1111 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-bromo-3-(4-methoxy-1,3-benzoxazol-2-yl)pyridin-2-amine | 480 mg | BrC=1C=C(C(=NC1)N)C=1OC2=C(N1)C(=CC=C2)OC | C13H10BrN3O2
